US04340740
Methanol (5 ml) and 1 ml of DME were added to 788 mg of alpha-(2-benzothiazolylthio)[p-(2-thienylcarbonyl)phenyl]acetonitrile, and the mixture was stirred in an argon atmosphere under ice cooling. Methyl iodide (0.20 ml) and 0.81 ml of a 2.7 M methanol solution of sodium methoxide were added. The mixture was stirred under ice cooling for 1 hour, and then at room temperature for 3.5 hours. Water (20 ml) and 30 ml of methylene chloride were added, and the insoluble matter was removed by filtration. The filtrate was shaken, and the organic layer was separated. The aqueous layer was extracted with 20 ml of methylene chloride twice. The organic layers were combined, washed with 20 ml of water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was separated by column chromatography (silica gel; methylene chloride) to afford 73 mg of alpha-(2-benzothiazolylthio)alpha-[p-(2-thienylcarbonyl)phenyl]propionitrile as colorless crystals.

reactant | alpha-(2-benzothiazolylthio)[p-(2-thienylcarbonyl)phenyl]acetonitrile | 788 mg | S1C(=NC2=C1C=CC=C2)SC(C#N)C2=CC=C(C=C2)C(=O)C=2SC=CC2 | C20H12N2OS3
reactant | Methyl iodide | 0.20 ml | CI | CH3I
reactant | sodium methoxide | C[O-].[Na+]
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | Water | 20 ml | O | H2O
solvent | methanol | 2.7 M | CO | CH4O
solvent | DME | 1 ml | COCCOC | C4H10O2
solvent | Methanol | 5 ml | CO | CH4O
product | alpha-(2-benzothiazolylthio)alpha-[p-(2-thienylcarbonyl)phenyl]propionitrile | 73 mg | S1C(=NC2=C1C=CC=C2)SC(C#N)(C)C2=CC=C(C=C2)C(=O)C=2SC=CC2 | C21H14N2OS3
